Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Ataxia
 
Major Surgical or Invasive Procedure:
EEG monitoring

 
History of Present Illness:
HPI: Patient is a ___ yo RH man with PMH of simple partial
seizures, learning disability, hypothyroidism,
hyperparathyroidism, HTN and unsteady gait.  He says that he has
had a chronic decline in his gait over the last 6 months, and
started having to use the wall to support him about 2 weeks ago. 

Then, the last 2 days he feels that his gait has had  a more
rapid decline.  This has all been gradual though and there was
never an acute change.  His gait does not fluctuate throughout
the day.  He denies any falls the last 2 weeks.  He does not use
a cane or walker, but needs to support himself with the wall.  
He
has been able to get around still using the T, but today called
for EMS.  Denies weakness, parasthesias, back pain, neck pain or
trauma.  Denies bladder or bowel incontinence.  He denies any
clumsiness in the arms.  Has some chronic sense of calf 
tightness
the last ___ years.  Denies any dizziness.  

Regarding his seizures, he has had about 3 the last month and 
the
last was 3 days ago.  They are simple partial seizures, and he
says that he never loses consciousness with them.  He initially
reported to EMS that he was having increased auras, but now says
he had only one aura this AM, none yesterday and that at times 
he
has multiple auras in one day.  He does not think his auras are
increased anymore, and he's unsure why that was documented as a
complaint earlier today.  Denies any recent changes to his
anti-seizure medications.  He has been on this combination over
the last several years and could not recall the prior 
medications
he took.
He also complained of intermittent diploplia today, but reports
that this is a chronic problem over the last 6 months and has
actually been better than baseline today.  

ROS: Denies any change in cognition and denies word finding
difficulty.  No fevers, chills, neck stiffness or pain.  No
nausea/vomtting or belly pain.  
 

 
Past Medical History:
PMH: partial seizures, HTN, Hyperparathyroidism, right L5
radiculopathy, hypothyroid, unsteady gait.
 
Social History:
___
Family History:
FH:  Some relatives on mother's side of family have seizures
(aunt and others).

 
Physical Exam:
T- 98.1  BP- 157/88  HR- 56  RR- 16  O2Sat  96 RA
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa   
Neck: No tenderness to palpation, normal ROM, supple, no carotid
or vertebral bruit
Back: No point tenderness or erythema
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs 
Lung: Clear to auscultation bilaterally 
aBd: +BS soft, nontender 
ext: no edema

Neurologic examination: 
Mental status: Awake and alert, cooperative with exam, normal 
affect.  Oriented to person, place, and date.  Mildly 
inattentive
with portions of the exam and pauses and stutters frequently
before giving answers.  Speech is fluent with normal
comprehension and repetition; naming intact to high frequency
words. No dysarthria. Reading slow but intact.  Registers ___ on
___ try, recalls ___ in 5 minutes.  No evidence of apraxia or
neglect.
 
Cranial Nerves:  
Pupils equally round and reactive to light, 4 to 2 mm
bilaterally. Visual fields are full to confrontation. 
Extraocular
movements intact bilaterally, with bilateral sustained endgaze
nystagmus. Sensation intact V1-V3.  Facial movement symmetric. 
Hearing intact to finger rub bilaterally.  Palate elevation
symmetrical.  Sternocleidomastoid and trapezius normal
bilaterally. Tongue midline, movements intact
 
Motor: 
Normal bulk bilaterally. Tone slgihtly increased in legs. No
observed myoclonus or tremor, but noted to have fascicullations
in the TA and gastrocs bilaterally.
No pronator drift
  Del Tri Bi  WF WE FE FF  IP  H  Q DF PF TE TF
R  ___  ___  ___  ___  5- 5
L  ___  ___  ___  ___  5  5  
 
Sensation: Intact to light touch, pinprick throughout, but 
absent
to vibratory at ankles and still significantly decreased at
knees.  Proprioception poor at toes. 
 
Reflexes: 
absent throughout.  
Toes mute bilaterally 
 
Coordination: finger-nose-finger mildly ataxic left, RAM ataxic
left, but intact right, heel to shin ataxic bilaterally.
 
Gait: wide based, unsteady, ataxic and unsafe without assist.
 
Romberg: could not be attemted
 

 
Pertinent Results:
___ 05:00PM BLOOD WBC-3.4* RBC-3.69* Hgb-11.3* Hct-33.4* 
MCV-91 MCH-30.6 MCHC-33.7 RDW-13.1 Plt ___
___ 05:00PM BLOOD Neuts-47.1* Lymphs-45.1* Monos-5.2 
Eos-1.5 Baso-1.1
___ 05:00PM BLOOD Glucose-106* UreaN-5* Creat-1.5* Na-138 
K-4.4 Cl-95* HCO3-33* AnGap-14
___ 05:00PM BLOOD ALT-20 AST-26 LD(LDH)-246 AlkPhos-79 
TotBili-0.5
___ 05:00PM BLOOD Albumin-4.6 Calcium-9.9 Phos-4.0 Mg-2.1
___ 05:00PM BLOOD Carbamz-16.2*
___ 05:35AM BLOOD Carbamz-13.5*
___ 05:00AM BLOOD Carbamz-8.8
----
CT head:
1. No evidence of intracranial hemorrhage or edema.
2. Asymmetric atrophy of the left caudate head when compared to 
the right. Of note, MRI would be recommended to evaluate for 
structural abnormalities as possible cause for seizures if not 
performed previously.
----
___:
IMPRESSION:
1. Diffuse cerebral and cerebellar atrophy, more than expected 
for the patient's age, may be secondary to chronic Dilantin use, 
although other causes cannot be excluded. Volume loss in the 
cerebellum is congruent with cerebral atrophy.
2. Asymmetry of the cerebral hemispheres with increased atrophy 
involving the left cerebral hemisphere and associated prominence 
of the left lateral ventricle is also of uncertain etiology and 
may be secondary to prior insult. No blood products are noted. 
Gliotic changes are noted along the left insula.
3. No evidence of acute hemorrhage, infarct, or evidence of 
mass.
----
EEG:
IMPRESSION: Abnormal EEG in the waking and drowsy states due to 
the 
background voltage asymmetry, with lower voltages seen broadly 
over the 
left hemisphere. This suggests either widespread cortical 
dysfunction 
on the left or material interposed between the recording 
electrodes and 
brain surface (e.g. subdural fluid). Otherwise, there were no 
focal 
abnormalities or epileptiform features. A bradycardia was noted. 


 
Brief Hospital Course:
Pt was admitted after becoming acutely ataxic in the setting of 
chronic ataxia.  He was found to have a toxic tegretol level so 
this was held for 1.5 days.  There was no recent medication 
change and no reason was found for his level to have risen.  His 
recent increase in levothyroxine should not have caused this.  
His gait improved while he was here and his tegretol level 
normalized.  An MRI showed his baseline cerebral asymmetry and 
also cerebellar atrophy.  

Based on the cerebellar atrophy and his osteoporosis concerns, 
we decided to change his anticonvulsants.  His Tegretol was 
decreased slightly to 300-400 and Zonegran was added to titrate 
up slowly (he will be on 100 mg daily in 4 weeks, at which point 
further uptitration can be undertaken).  he can then be titrated 
off of the Tegretol.  he was also on low dose Neurontin, which 
was stopped.

He did well and ___ cleared him for D/C with a rolling walker and 
home ___.  
 
Medications on Admission:
Tegretol XR 400mg BID
Neurontin 200mg AM, 100mg noon, 200mg ___
Levoxyl 50mg daily
Simvastatin 20 daily
ASA 81 daily
CaC03
B12
Foasamax 70 weekly
 
Discharge Medications:
1. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Calcium  Oral
5. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
6. Vitamin B-12  Oral
7. Tegretol XR 200 mg Tablet Sustained Release 12 hr Sig: as 
directed Tablet Sustained Release 12 hr PO twice a day: Take 1 
tab each morning and 2 tabs each evening.
**BRAND NAME TEGRETOL XR ONLY**.
Disp:*90 Tablet Sustained Release 12 hr(s)* Refills:*2*
8. Zonisamide 100 mg Capsule Sig: One (1) Capsule PO as 
directed: Take 1 cap twice a week ___ and ___ for 2 weeks, 
then take 1 cap ___ for 2 weeks, then 1 tab 
daily ongoing.
Disp:*30 Capsule(s)* Refills:*2*
9. Tegretol XR 100 mg Tablet Sustained Release 12 hr Sig: One 
(1) Tablet Sustained Release 12 hr PO qam: **BRAND NAME TEGRETOL 
XR ONLY**.
Disp:*30 Tablet Sustained Release 12 hr(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Seizures
Tegretol toxicity

 
Discharge Condition:
Stable. He is still unsteady, but does well with a walker.  Mild 
ataxia with FNF on the left>right.  Pt speaks relatively slowly 
at some times.

 
Discharge Instructions:
Please call your PCP or return to the ED if you have any new 
unsteadiness, falls, vision changes, fatigue, or new seizure 
types.  
---
We changed your medications slightly. Please make sure to take 
the new dose of Tegretol (300 mg in the morning and 400 mg at 
night; this is 1 pill of 100 mg and 1 pill of 200 mg in the 
morning, and 2 pills of 200 mg at night each day).  Also, we 
added a new medication called Zonegran.  This will need to be 
titrated up to a full dose as prescribed.  Please follow this 
prescription as written.
--
We stopped your neurontin.  Please do not take this any longer.
 
Followup Instructions:
___